US09376441B2
(R)-4-((R)-1-((3-methyl-6-(6-(piperazin-1-yl)pyridin-3-yl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one (130 mg, 0.31 mmol) was dissolved in THF (7.71 ml), followed by the addition of Hunig's base (0.05 ml, 0.31 mmol), 3-oxetanone (0.2 ml, 3.08 mmol), sodium triacetoxyborohydride (228.79 mg, 1.08 mmol) and stirred at 50 C for 90 minutes. The reaction was diluted with 25% methanol/dichloromethane, washed with water, dried, filtered and concentrated. Residues were purified by silica gel column chromatography to yield the (R)-4-((R)-1-((3-methyl-6-(6-(4-(oxetan-3-yl)piperazin-1-yl)pyridin-3-yl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one (32.9 mg, 22%)

reactant | (R)-4-((R)-1-((3-methyl-6-(6-(piperazin-1-yl)pyridin-3-yl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | 0.31 mmol, 130 mg | CN1C=NC2=C1C(=NC(=C2)C=2C=NC(=CC2)N2CCNCC2)O[C@H](C)[C@@H]2CC(NC2)=O | C22H27N7O2
reactant | Hunig's base | 0.31 mmol, 0.05 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-oxetanone | 3.08 mmol, 0.2 ml | O1CC(C1)=O | C3H4O2
reactant | sodium triacetoxyborohydride | 1.08 mmol, 228.79 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 7.71 ml | C1CCOC1 | C4H8O
solvent | methanol dichloromethane | CO.ClCCl
product | (R)-4-((R)-1-((3-methyl-6-(6-(4-(oxetan-3-yl)piperazin-1-yl)pyridin-3-yl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | 32.9 mg, 22% | CN1C=NC2=C1C(=NC(=C2)C=2C=NC(=CC2)N2CCN(CC2)C2COC2)O[C@H](C)[C@@H]2CC(NC2)=O | C25H31N7O3
